US09303007B2
TFA (2 mL) was added to a solution of (S)-tert-butyl 2-(5-(4-(6-(2-((S)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-4-chloro-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (75 mg) in DCM (10 mL) and the mixture was stirred for 2 h at room temperature. The solvents were removed in vacuo and the residue was taken up in a solvent mixture of 1:1 methanol/CH2Cl2 and filtered through an MCX cartridge (Strata XC). The cartridge was washed with methanol and the compound was eluted with a solution of NH3 in methanol (2M). The appropriate fractions were concentrated in vacuo to afford 4-chloro-2-((S)-pyrrolidin-2-yl)-5-(4-(6-(2-((S)-pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-1H-imidazole (40 mg, 0.079 mmol) as yellow solid. LC-MS retention time 1.353 min; m/z 509.32 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% MeOH/90% H2O/0.1% TFA and Solvent B was 10% H2O/90% MeOH/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD, partially soluble only) δ ppm 8.20 (s, 1H), 8.09 (s, 1H), 7.88-7.96 (m, 2H), 7.76-7.88 (m, 6H), 7.51 (s, 1H), 4.50 (t, J=7.28 Hz, 1H), 4.35 (t, J=7.15 Hz, 1H), 3.03-3.31 (partially masked by methanol, m, 4H), 2.24-2.42 (m, 2H), 1.88-2.21 (m, 6H).

reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (S)-tert-butyl 2-(5-(4-(6-(2-((S)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-4-chloro-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 75 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=CN1)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)C1=C(N=C(N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C)Cl | C40H45ClN6O4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-((S)-pyrrolidin-2-yl)-5-(4-(6-(2-((S)-pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)phenyl)-1H-imidazole | 0.079 mmol, 40 mg | ClC=1N=C(NC1C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C1=CN=C(N1)[C@H]1NCCC1)[C@H]1NCCC1 | C30H29ClN6
